US04070466
b. 2-Methyl-4-phenyl-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]-pyrido[3,4-e]pyrimidin-5(8H)-one
0.01 mol. of 1-furfuryl-2-methyl-4-phenyl-4H-pyrazolo-[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one is heated in 50 ml. of diethyleneglycol dimethyl ether containing 0.01 mol. of selenium dioxide at reflux temperature with stirring for 2 hours. The mixture is filtered hot and evaporated to dryness. Crystalline 2-methyl-4-phenyl-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one remains.

reactant | 1-furfuryl-2-methyl-4-phenyl-4H-pyrazolo-[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one | C(C1=CC=CO1)N1C(C=C2N1C1=C(C(N2C2=CC=CC=C2)=O)C=NC2=C1C=NN2)C | C22H18N6O2
reactant | diethyleneglycol dimethyl ether | 0.01 mol | COCCOCCOC | C6H14O3
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 2-Methyl-4-phenyl-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]-pyrido[3,4-e]pyrimidin-5(8H)-one | CC1=NN2C(N(C(C3=C2C2=C(N=C3)NN=C2)=O)C2=CC=CC=C2)=C1 | C17H12N6O
